US06174881B1
Manufacture of 8-chloro-6-(2-fluorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol
A suspension of 20.0 g of 7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-ylamine and 9.72 g of 1,3-dichloroacetone in 300 ml of dioxan was treated with 5.84 g of sodium hydrogen carbonate and heated at reflux for 6 h. Then, 160 ml of 1N aqueous sodium hydroxide solution were added dropwise and the mixture was boiled for a further hour. The reaction mixture was concentrated in a vacuum to a large extent, treated with water and extracted three times with equal volumes of dichloromethane. The combined organic phases were dried over magnesium sulphate, concentrated in a vacuum and chromatographed over 1 kg of silica gel. With dichloromethane containing 5% methanol there were obtained 11.3 g of the desired product which was recrystallized from ethyl acetate/diisopropyl ether. There were thus obtained 10.5 g (44%) of 8-chloro-6-(2-fluorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol of m.p. 199-201° C.

reactant | 7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-ylamine | 20.0 g | ClC=1C=CC2=C(C(=NCC(=N2)N)C2=C(C=CC=C2)F)C1 | C15H11ClFN3
reactant | 1,3-dichloroacetone | 9.72 g | ClCC(=O)CCl | C3H4Cl2O
reactant | sodium hydrogen carbonate | 5.84 g | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | 1N, 160 ml | [OH-].[Na+]
solvent | dioxan | 300 ml | O1CCOCC1 | C4H8O2
product | 8-chloro-6-(2-fluorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine-2-methanol | 11.3 g | ClC=1C=CC2=C(C(=NCC=3N2C=C(N3)CO)C3=C(C=CC=C3)F)C1 | C18H13ClFN3O
